US06329550B1
4.1 Synthesis of N,N′-dibenzyl-2-(t-butoxycarbonylamino)malonamide
Combine t-butoxycarbonylaminomalonic acid (0.438 g, 2.00 mmol), benzylamine (0.436 mL, 4.0 mmol), and dichloromethane (10 mL). Add N-methylmorpholine (0.55 mL, 5.00 mmol) ), 1-ethyl-3-(3-(dimethylamino)propyl)carbodiimide hydrochloric acid salt (0.96 g, 5.0 mmol), and 1-hydroxybenztriazole hydrate (0.67 g, 5.0 mmol). After 18 hours, concentrate in vacuo, dilute the concentrated reaction mixture with ethyl acetate, extract with an aqueous 5% sulfuric acid solution, a saturated sodium bicarbonate solution, and then brine. Dry the organic layer over Na2SO4, filter, and evaporate in vacuo to give a residue. Chromatograph the residue on silica gel eluting with 3/2 ethyl acetate/hexane to give the title compound (52%).

reactant | t-butoxycarbonylaminomalonic acid | 2.00 mmol, 0.438 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C(=O)O | C8H13NO6
reactant | benzylamine | 4.0 mmol, 0.436 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | N-methylmorpholine | 5.00 mmol, 0.55 mL | CN1CCOCC1 | C5H11NO
reactant | 1-ethyl-3-(3-(dimethylamino)propyl)carbodiimide hydrochloric acid salt | 5.0 mmol, 0.96 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxybenztriazole hydrate | 5.0 mmol, 0.67 g | O.ON1N=NC2=C1C=CC=C2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | N,N′-dibenzyl-2-(t-butoxycarbonylamino)malonamide | 52% | C(C1=CC=CC=C1)NC(C(C(=O)NCC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C22H27N3O4
